US07335373B2
Preparation of 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione (TTDD)
In a Parr high-pressure reactor, 15.6 grams (0.1 mol) of 2,2,6,6-tetramethyl-4-piperidone (Aldrich Chemicals Inc.), 13.5 grams (0.2 mol) of 97% potassium cyanide, 43.2 grams (0.45 mol) of ammonium carbonate, 120 mL ethanol, and 120 mL water were mixed. The contents were reacted with stirring at 85° C. for 12 hours, cooled to ambient temperature, and poured into 300 mL of water causing the solid product to precipitate. Impurity salts were washed away with water, and the product was dried.

reactant | 2,2,6,6-tetramethyl-4-piperidone | 0.1 mol, 15.6 grams | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | potassium cyanide | 0.2 mol, 13.5 grams | [C-]#N.[K+]
reactant | ammonium carbonate | 0.45 mol, 43.2 grams | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 120 mL | C(C)O | C2H6O
solvent | water | 300 mL | O | H2O
solvent | water | 120 mL | O | H2O
product | 7,7,9,9-tetramethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | CC1(CC2(C(NC(N2)=O)=O)CC(N1)(C)C)C | C11H19N3O2
